US09126935B2
To 4-chloro-7-methoxyquinoline (0.900 g, 4.6 mmol), 2-fluoro-4-nitrophenol (2.3 g, 14 mmol), and N,N-dimethylpyridin-4-amine (0.068 g, 0.56 mmol) was added dioxane (10 mL) and pyridine (6.4 ml, 79 mmol). The resulting mixture was heated at 110° C. in an argon-purged sealed tube for 16 hours. An aliquot was analyzed by LCMS and indicated the presence of desired product. The reaction mixture was concentrated in vacuo and diluted with 2 N NaOH. The resulting solid was filtered, and the filtrate was extracted with CH2Cl2. The organic layers were dried over sodium sulfate and filtered through a pad of silica gel along with the solids using 10% MeOH/CH2Cl2 as eluent. The collected fractions were concentrated in vacuo to yield 4-(2-fluoro-4-nitrophenoxy)-7-methoxyquinoline (0.900 g, 2.3 mmol, 49% yield) as a brownish solid. Calcd for C16H11FN2O4: [M]+=314. Found: [M+H]+=315.

reactant | 4-chloro-7-methoxyquinoline | 4.6 mmol, 0.900 g | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | 2-fluoro-4-nitrophenol | 14 mmol, 2.3 g | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | pyridine | 79 mmol, 6.4 ml | N1=CC=CC=C1 | C5H5N
catalyst | N,N-dimethylpyridin-4-amine | 0.56 mmol, 0.068 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(2-fluoro-4-nitrophenoxy)-7-methoxyquinoline | 2.3 mmol, 0.900 g, 49% yield | FC1=C(OC2=CC=NC3=CC(=CC=C23)OC)C=CC(=C1)[N+](=O)[O-] | C16H11FN2O4
